US07728025B2
(Step 1) Production of 3-((t-butyl(dimethyl)silyl)oxy)dihydrofuran-2 (3H)-one
9.0 g of imidazole and 15.9 g of t-butyldimethylsilyl chloride were added in order to a dimethylformamide (180 ml) solution of 9.0 g of 3-hydroxydihydrofuran-2-(3H)-one, and the reaction liquid was stirred for 1 hour at room temperature. The reaction liquid was diluted with ethyl acetate, washed with water, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=5/1) to obtain the entitled compound as a colorless oily substance.

reactant | imidazole | 9.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 15.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
reactant | 3-hydroxydihydrofuran-2-(3H)-one | 9.0 g | OC1C(OCC1)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((t-butyl(dimethyl)silyl)oxy)dihydrofuran-2 (3H)-one | [Si](C)(C)(C(C)(C)C)OC1C(OCC1)=O | C10H20O3Si
